US09447073B2
Preparation of 4-((6-(2-(2,4-difluorophenyl)-1,1-difluoro-2-oxoethyl)pyridin-3-yl)oxy)benzonitrile (C3)
To a solution of 1-bromo-2,4-difluorobenzene (0.724 g, 3.77 mmol) in diethyl ether (Et2O)(20 mL) under a N2 atmosphere was added n-BuLi (2.49 mL, 4.03 mmol) at −78° C. and the reaction mixture was stirred for 45 minutes. Ethyl 2-(5-(4-cyanophenoxy)pyridin-2-yl)-2,2-difluoroacetate (1.00 g, 3.1 mmol) in Et2O (5 mL) was added dropwise and the reaction was stirred at the same temperature for 1 h. The reaction mixture was carefully quenched with 1N HCl until the reaction mixture was acidic. The reaction mixture was allowed to warm to room temperature and was extracted with Et2O. The combined organic phases were dried (Na2SO4) and concentrated to afford the title compound as yellow solid that was used for the next step without further purification (1.0 g, 83% crude yield): 1H NMR (300 MHz, CDCl3) δ 8.36 (d, J=2.7 Hz, 1H), 8.15-8.02 (m, 1H), 7.86 (d, J=8.7 Hz, 1H), 7.74-7.65 (m, 2H), 7.53 (dd, J=8.6, 2.7 Hz, 1H), 7.16-7.06 (m, 2H), 7.05-6.96 (m, 1H), 6.84 (ddd, J=10.9, 8.6, 2.4 Hz, 1H); 19F NMR (376 MHz, CDCl3) δ −99.13 (d, J=13.5 Hz), −100.67 (d, J=14.9 Hz), −101.82 (dd, J=28.5, 14.2 Hz); ESIMS m/z 387 ([M+1]+).

reactant | 1-bromo-2,4-difluorobenzene | 3.77 mmol, 0.724 g | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
reactant | n-BuLi | 4.03 mmol, 2.49 mL | [Li]CCCC
reactant | Ethyl 2-(5-(4-cyanophenoxy)pyridin-2-yl)-2,2-difluoroacetate | 3.1 mmol, 1.00 g | C(#N)C1=CC=C(OC=2C=CC(=NC2)C(C(=O)OCC)(F)F)C=C1 | C16H12F2N2O3
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 4-((6-(2-(2,4-difluorophenyl)-1,1-difluoro-2-oxoethyl)pyridin-3-yl)oxy)benzonitrile | FC1=C(C=CC(=C1)F)C(C(F)(F)C1=CC=C(C=N1)OC1=CC=C(C#N)C=C1)=O | C20H10F4N2O2
